US04775671
14.53 g (89.6 mmol) of N,N'-carbonyldiimidazole are introduced portion wise into a suspension of 20 g (66.4 mmol) of (S)-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid in 70 ml of N,N-dimethylformamide. The solution obtained is stirred at room temperature and at 50°, in each case for 1 hour, and is then poured into about 300 ml of water. After stirring for 20 minutes the suspension obtained is suction filtered and the residue is washed with water. After drying at 90° for 16 hours in a water-jet vacuum there is obtained 1-[[(S)-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole of melting point 206°-207°.

reactant | (S)-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylic acid | 66.4 mmol, 20 g | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)O)CCC3)=O)C1 | C15H12FN3O3
reactant | water | about 300 ml | O | H2O
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-[[(S)-7-fluoro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepin-1-yl]carbonyl]imidazole | FC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)N4C=NC=C4)CCC3)=O)C1 | C18H14FN5O2
